US04554366
Embodiment 207--1-Acetyl-2-(2-propen-2-yl)cyclopropanecarboxylic Acid, Ethyl Ester
Ethyl acetoacetate (125.8 g) in 400 ml of toluene was added dropwise to a suspension of sodium hydride (68.3 g of a 60% oil dispersion washed with pentane) in 1 L of toluene under an N2 blanket at -6° C. to 2° C. After 20 minutes, 1,4-dibromo-2-methyl-2-butene (220.6 g) in 300 ml of toluene was added dropwise at -2° C. to 0° C. The reaction mixture was allowed to warm to ambient temperature and after 22 hours, was diluted with water and extracted with ethyl acetate (thrice). The combined organic extracts were washed with water, brine, dried and concentrated in vacuuo. GLC of the crude material indicated 77% of the two desired isomers. The isomers were separated by flash chromatography using 7.5% ethyl acetate in hexane, giving ca 90% pure isomers.

reactant | Ethyl acetoacetate | 125.8 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | sodium hydride | [H-].[Na+]
reactant | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
product | 1-Acetyl-2-(2-propen-2-yl)cyclopropanecarboxylic Acid, Ethyl Ester | C(C)(=O)C1(C(C1)C(C)=C)C(=O)OCC | C11H16O3
